US08293744B2
Step 1: Preparation of ethyl 3-(3-chloro-2-thienyl)-3-oxopropanoate:
Potassium 3-(ethyoxy)-3-oxopropanoate (1.97 g, 11.6 mmol, 2.1 equiv) was suspended in acetonitrile (15 mL), cooled to 0° C. and treated with successively with triethylamine (2.46 mL, 17.7 mmol, 3.2 equiv) and magnesium(II) chloride (1.31 g, 13.8 mmol, 2.5 equiv). The ice bath was removed and the mixture was warmed to ambient temperature and stirred for an additional for 2.5 hours. An acetonitrile solution (5 mL) of 3-chlorothiophene-2-carbonyl chloride (1.00 g, 5.52 mmol) was added and the mixture was stirred for 72 hours at ambient temperature. The mixture was concentrated in vacuo and the residue was concentrated from toluene (1×75 mL), providing a white solid. The solid was suspended in toluene (˜50 mL), cooled to 0° C. and treated with hydrochloric acid (˜20 mL, 12 N aqueous) with vigorous stirring. After 15 minutes, the ice bath was removed and the mixture was warmed to ambient temperature and stirred for 45 minutes. The mixture was poured into water (50 mL) and extracted with ethyl acetate (3×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 75:25; hexanes:ethyl acetate), providing the titled compound.

reactant | Potassium 3-(ethyoxy)-3-oxopropanoate | 11.6 mmol, 1.97 g, 2.1 equiv | C(C)OC(CC(=O)[O-])=O.[K+]
reactant | triethylamine | 17.7 mmol, 2.46 mL, 3.2 equiv | C(C)N(CC)CC | C6H15N
reactant | magnesium(II) chloride | 13.8 mmol, 1.31 g, 2.5 equiv | [Cl-].[Mg+2].[Cl-]
reactant | 3-chlorothiophene-2-carbonyl chloride | 5.52 mmol, 1.00 g | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
reactant | hydrochloric acid | 12 N, ˜20 mL | Cl | ClH
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | toluene | ˜50 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | ethyl 3-(3-chloro-2-thienyl)-3-oxopropanoate | ClC1=C(SC=C1)C(CC(=O)OCC)=O | C9H9ClO3S
